US06506772B1
(5-Amino-2-pyridin-2-yl-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-phenyl-methanone
The title compound, MS m/e (%): 316 (M+H+, 100), was prepared in accordance with the general method of example 373 from (2,6-diamino-pyridin-4-yl)-phenyl-methanone, o-mesitylene-sulfonylhydroxylamine, and pyridine-2-carbaldehyde. The purification was performed with reversed phase HPLC eluting with an acetonitrile/water gradient.

reactant | (2,6-diamino-pyridin-4-yl)-phenyl-methanone | NC1=NC(=CC(=C1)C(=O)C1=CC=CC=C1)N | C12H11N3O
reactant | o-mesitylene-sulfonylhydroxylamine | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)NO)C | C9H13NO3S
reactant | pyridine-2-carbaldehyde | N1=C(C=CC=C1)C=O | C6H5NO
product | (5-Amino-2-pyridin-2-yl-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-phenyl-methanone | NC1=CC(=CC=2N1N=C(N2)C2=NC=CC=C2)C(=O)C2=CC=CC=C2 | C18H13N5O
